US08034941B2
2-[(R)-3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-3-(2-butyn-1-yl)-5-[(4-oxo-3,4-dihydro-quinazolin-2-yl)methyl]-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one
40 mg sodium methoxide (95%) are added to a solution of 605 mg 2-[(R)-3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-3-(2-butyn-1-yl)-5-cyanomethyl-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one in 9 ml of methanol. The mixture is stirred for one hour at ambient temperature and then neutralised with 41 μL glacial acetic acid. Then a solution of 195 mg anthranilic acid in 2 ml of methanol is added and the reaction mixture is heated to 70° C. After about two hours a white, voluminous precipitate is formed and the reaction mixture is cooled to ambient temperature. The precipitate formed is suction filtered, washed with cold methanol and dried.

reactant | sodium methoxide | 40 mg | C[O-].[Na+]
reactant | 2-[(R)-3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-3-(2-butyn-1-yl)-5-cyanomethyl-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | 605 mg | C(C)(C)(C)OC(=O)N[C@H]1CN(CCC1)C=1N(C2=C(C=NN(C2=O)CC#N)N1)CC#CC | C21H27N7O3
reactant | acetic acid | 41 μL | C(C)(=O)O | C2H4O2
reactant | anthranilic acid | 195 mg | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
solvent | methanol | 9 ml | CO | CH4O
solvent | methanol | 2 ml | CO | CH4O
product | 2-[(R)-3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-3-(2-butyn-1-yl)-5-[(4-oxo-3,4-dihydro-quinazolin-2-yl)methyl]-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | C(C)(C)(C)OC(=O)N[C@H]1CN(CCC1)C=1N(C2=C(C=NN(C2=O)CC2=NC3=CC=CC=C3C(N2)=O)N1)CC#CC | C28H32N8O4
